US05006535
Ethyl 8-methoxy-4-(4-methyl-3-thienylamino)quinoline 3-carboxylate
The sodium salt of 3-amino-4-methylthiophene-2-carboxylic acid (7.2 g, 0.04 mol) and ethyl 8-methoxy-4-chloroquinoline-3-carboxylate (5.39 g, 0.02 mol) in toluene (75 ml), ethanol (55 ml) and glacial acetic acid (10 ml) were stirred at room temperature for five days. The solvents were removed by evaporation at reduced pressure to give a dark-green slurry. 10% aqueous sodium carbonate was added and the insoluble solid filtered off, washed well with water and dried. This material was crystallised from ethyl acetate (with charcoaling) to give the title compound as pale yellow crystals (2.15 g), m.p. 162°-164°.

reactant | sodium | [Na] | Na
reactant | 3-amino-4-methylthiophene-2-carboxylic acid | 0.04 mol, 7.2 g | NC1=C(SC=C1C)C(=O)O | C6H7NO2S
reactant | ethyl 8-methoxy-4-chloroquinoline-3-carboxylate | 0.02 mol, 5.39 g | COC=1C=CC=C2C(=C(C=NC12)C(=O)OCC)Cl | C13H12ClNO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 55 ml | C(C)O | C2H6O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | Ethyl 8-methoxy-4-(4-methyl-3-thienylamino)quinoline 3-carboxylate | 2.15 g | COC=1C=CC=C2C(=C(C=NC12)C(=O)OCC)NC1=CSC=C1C | C18H18N2O3S
